Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
atrial flutter
 
Major Surgical or Invasive Procedure:
Atrial flutter ablation ___

 
History of Present Illness:
___ yo man with HLD, HTN, hypothyroidism, HFpEF (EF 50-55%
recovered) and diagnosis of atrial flutter presenting with 
repeat
tachycardia after being cardioverted last week. 

Today the patient was seeing his ___ cardiologist Dr.
___ follow up. While there he was asymptomatic, but
tachycardic thus the cardiologist referred the patient to the
emergency room. 

While in the emergency room his vitals were stable with max 
rates
of 116. His blood pressures were in the 120s and he was 
breathing
well on Ra. He had laboratory evaluation that showed a normal
chemistry panel and a normal CBC. 

His ECG showed regular flutter with a rate of 113. He had normal
intervals otherwise with no elevations or depressions noted. 

On the floor the patient states he feels completely fine except
some fullness in his abdomen and increased urinary frequency w/
lasix. He has occasional leg swelling. He has no headaches,
dizziness, lightheadness, he has occasional changes in vision he
says are new since he got sick, but no chest pain, jaw pain,
shortness of breath, cough, nausea, vomiting, diarrhea,
constipation, burning w/ urination. 

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes - has acanthosis nigricans, thus HA1c pending
- Hypertension
- Dyslipidemia

2. CARDIAC HISTORY
- Coronaries: unknown
- Pump: EF 50-55% recovered from 40%
- rhythm: flutter to the 110s

3. OTHER PAST MEDICAL HISTORY
hypothyroidism
obesity 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
=====================
VS: 24 HR Data (last updated ___ @ 134)
    Temp: 97.7 (Tm 97.7), BP: 122/91, HR: 125, RR: 18, O2 sat:
96%, O2 delivery: RA  
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVP not elevated, has acanthosis nigricans
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAMINATION:
=====================
24 HR Data (last updated ___ @ 1209)
    Temp: 98.7 (Tm 98.7), BP: 96/60 (74-112/32-96), HR: 65 (65
SR-71), RR: 18 (___), O2 sat: 96% (90-99), O2 delivery: RA  
Fluid Balance (last updated ___ @ 517) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative 280ml
    IN: Total 1080ml, PO Amt 1080ml
    OUT:  Total 800ml, Urine Amt 800ml  
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVP not elevated
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
LABS:
___ 08:00PM BLOOD WBC-6.6 RBC-4.29* Hgb-13.7 Hct-43.2 
MCV-101* MCH-31.9 MCHC-31.7* RDW-14.0 RDWSD-51.9* Plt ___
___ 06:36AM BLOOD WBC-5.7 RBC-4.54* Hgb-14.4 Hct-45.0 
MCV-99* MCH-31.7 MCHC-32.0 RDW-13.9 RDWSD-50.5* Plt ___
___ 06:10AM BLOOD WBC-8.1 RBC-4.19* Hgb-13.3* Hct-42.0 
MCV-100* MCH-31.7 MCHC-31.7* RDW-14.4 RDWSD-52.6* Plt ___
___ 06:36AM BLOOD ___ PTT-36.0 ___
___ 08:00PM BLOOD Glucose-109* UreaN-20 Creat-1.1 Na-139 
K-4.5 Cl-100 HCO3-28 AnGap-11
___ 06:10AM BLOOD Glucose-109* UreaN-21* Creat-1.0 Na-141 
K-4.0 Cl-102 HCO3-26 AnGap-13
___ 06:36AM BLOOD Calcium-8.9 Phos-2.9 Mg-2.1
___ 06:10AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.1
___ 07:21AM BLOOD %HbA1c-6.0 eAG-126
___:36AM BLOOD TSH-13*

STUDIES:

Transthoracic Echocardiogram Report (Post-ablation)
Name: ___ ___ MRN: ___ Date: ___ 08:00
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. There is no evidence for an atrial septal
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is normal left ventricular
wall thickness with a normal cavity size for body size. There is 
normal regional and global left ventricular
systolic function. Overall left ventricular systolic function is 
low normal. The visually estimated left
ventricular ejection fraction is 50-55%. There is no resting 
left ventricular outflow tract gradient. There is
indeterminate diastolic function. Mildly dilated right 
ventricular cavity with normal free wall motion. The aortic
sinus diameter is normal for gender with mildly dilated 
ascending aorta. The aortic arch is mildly dilated with a
mildly dilated descending aorta. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets
(3) appear structurally normal. There is no aortic valve 
stenosis. There is trace aortic regurgitation. The mitral
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is mild to moderate [___]
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally
normal. There is mild to moderate [___] tricuspid 
regurgitation. There is mild pulmonary artery systolic
hypertension. There is no pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and cavity 
size (for BSA) with low-normal
regional/global systolic function. Mild to moderate mitral 
regurgitation. Mild to moderate tricuspid
regurgitation. Trace aortic regurgitation. Mild pulmonary artery 
systolic hypertension. Mild thoracic
aortic dilation.
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
___ yo man with HLD, HTN, hypothyroidism, HF with recovered EF, 
and diagnosis of atrial flutter diagnosed about 7 months ago 
that he has been cardioverted x5, most recently last week who 
presented in recurrent atrial flutter.

The patient was initially uptitrated on his metoprolol. The 
patient was seen by the electrophysiology service and underwent 
atrial flutter ablation on ___. Subsequently, the patient 
remained in sinus rhythm with well-controlled rates. His 
amiodarone was stopped. He was then continued on his home dose 
metoprolol. He will need to continue on rivaroxaban 
indefinitely. He had a transthoracic echocardiogram which showed 
EF of 50-55% with low normal regional/global systolic function. 
Ultimately, he was discharged home.

TRANSITIONAL ISSUES:
====================
#MEDICATION CHANGES
[]Stopped medications: Amiodarone

#PCP:
[]TSH was measured at 13. Unclear if this is secondary to 
amiodarone versus underdosed on levothyroxine. Would recommend 
repeating TFTs with T4 in the outpatient setting at discharge 
and in 3 months.
[]Found to have prediabetes given Hgb A1c of 6.0% on admission. 
Would continue to monitor and counsel regarding lifestyle 
modifications. Could consider initiation of metformin if 
indicated

#CARDIOLOGY/ELECTROPHYSIOLOGY:
[]Status post atrial flutter ablation on ___. Patient will 
need follow-up in the outpatient setting
[]Continue to manage HF with recovered EF. EF stable this 
admission, no clear evidence of rate related cardiomyopathy

#AT DISCHARGE:
[]Weight: 108.4 kg (238.98 lb) 
[]Cr: 1.0

# CODE: Full (presumed)

PROBLEM BASED SUMMARY:
======================
#Aflutter
Hemodynamically stable on presentation with no laboratory 
abnormalities to suggest instability of rates. S/p multiple 
prior cardioversions. Metop was initially uptitrated to tartrate 
37.5mg q6h. He went for Aflutter ablation on ___, subsequently 
in sinus without issues. Resumed home metop 50XL daily. 
Discontinued amiodarone. Continued Xarelto. Will need EP follow 
up as outpt in ___ weeks.

#Chronic HF recovered EF (50-55%)
___ have had issues w/ uptitration of medications (had ED 
admission fro orthostatic hypotension and dehydration in ___. 
DC weight ___ was 93.5 kg. TTE with EF 50-55%. However, not 
volume overloaded by exam on this admission. No dyspnea, edema, 
crackles, or JVP elevation.
- preload: continued Lasix 40 mg daily
- afterload: continued lisinopril 2.5 mg BID
- NHBK: metoprolol as above

#HLD
- continued atorvastatin 40 mg nightly

#Hypothyroidism 
TSH elevation this admission to ___ also be in the setting of 
amio vs underdosed levothyroxine
- Continued Levothyroxine Sodium 100 mcg PO DAILY 

#New dx prediabetes
#acanthosis nigricans
Noted on exam to have acanthosis nigricans, Hgb A1c 6.0
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Amiodarone 200 mg PO DAILY 
3. Rivaroxaban 20 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Lisinopril 2.5 mg PO BID 
7. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Furosemide 40 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  Lisinopril 2.5 mg PO BID  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Rivaroxaban 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
–Atrial flutter status post ablation
Secondary diagnosis: 
-Heart failure with recovered ejection fraction
–Hyperlipidemia
–Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
Discharge Worksheet  
================================================  
Dear Mr. ___,
  
WHY WERE YOU ADMITTED?
-You came to ___ because you had an abnormal heart rhythm

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
-You had a heart procedure done to get rid of your abnormal 
heart rhythm
-You had an ultrasound of your heart

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please be sure to attend your follow up appointments (see 
below)  
- Please take all of your medications as prescribed (see below). 
   

It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___